US06022655
About 5.0 g (1.0 equivalent) of 5-formylsalicylaldehyde was dissolved in about 15 ml of ethanol, and about 3.25 g (about 1.05 equivalents) of monochloroacetone was added thereto. Then, about 8.7 ml (about 1.50 equivalents) of diisopropylethylamine was added thereto at room temperature. The mixture was heated while being stirred for about 5 hours, and maintaining the reaction temperature at about 60° C. to 70° C. After confirming the completion of the reaction by TLC, the mixture was allowed to cool down. The produced solid matter was separated by filtering, and washed with ethanol. Then, the solid matter was recrystallized from ethanol so as to obtain about 5.8 g of the target 5-formyl-2-acetylbenzo[b]furan in the form of white crystal (yield: about 92.6%).

reactant | 5-formylsalicylaldehyde | 5.0 g, 1.0 equivalent | C(=O)C1=CC=C(C(C=O)=C1)O | C8H6O3
reactant | monochloroacetone | about 3.25 g, about 1.05 equivalents | ClCC(C)=O | C3H5ClO
reactant | diisopropylethylamine | about 8.7 ml, about 1.50 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | about 15 ml | C(C)O | C2H6O
product | 5-formyl-2-acetylbenzo[b]furan | C(=O)C1=CC2=C(OC(=C2)C(C)=O)C=C1 | C11H8O3
